US04767769
A mixture of ethyl 3,4-diaminobenzoate (0.9 g), 4-(3-piperidinomethylphenoxy)butyric acid (2.1 g) prepared as described in Example 42 and 4N hydrochloric acid (6 ml) was heated and stirred under reflux for 90 minutes. A further portion of the butyric acid (2.1 g) and of 4N hydrochloric acid (6 ml) was added and the mixture heated under reflux for 90 minutes. The reaction mixture was cooled and poured into water (10 volumes). Aqueous ammonia (S.G. 0.880) was added until the solution was alkaline and the mixture was extracted with ethyl acetate. The extracts were washed with water, dried and on removal of the solvent gave a residue which was purified by preparative layer chromatography on silica gel plates using a 1:1 mixture of dichloromethane and methanol to give 5-ethoxycarbonyl-2-[3-(3-piperidinomethylphenoxy)propyl]benzimidazole as an oil.

reactant | ethyl 3,4-diaminobenzoate | 0.9 g | NC=1C=C(C(=O)OCC)C=CC1N | C9H12N2O2
reactant | 4-(3-piperidinomethylphenoxy)butyric acid | 2.1 g | N1(CCCCC1)CC=1C=C(OCCCC(=O)O)C=CC1 | C16H23NO3
reactant | hydrochloric acid | 4N, 6 ml | Cl | ClH
reactant | butyric acid | 2.1 g | C(CCC)(=O)O | C4H8O2
reactant | hydrochloric acid | 4N, 6 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 5-ethoxycarbonyl-2-[3-(3-piperidinomethylphenoxy)propyl]benzimidazole | C(C)OC(=O)C1=CC2=C(N=C(N2)CCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C25H31N3O3
